US07671058B2
Preparation of 4-cyclohexyloxy-3-(trifluoromethyl)aniline
A solution of cyclohexanol (1.00 g, 10.0 mmol) in anhydrous tetrahydrofuran (6 ml) was added dropwise to a suspension of 60% sodium hydride (0.240 g, 6.00 mmol) in anhydrous tetrahydrofuran (6 ml) under ice cooling, and the mixture was stirred at room temperature for 1 hour. 1-Fluoro-4-nitro-2-(trifluoromethyl)benzene (1.05 g, 5.00 mmol) was added to the reaction mixture under ice cooling, and the mixture was refluxed for 3 hours. Ice water was added to the reaction mixture and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. Methanol (10 ml) and 10% platinum on activated carbon (0.100 g) were added to the residue obtained by evaporation of the solvent under reduced pressure, and the mixture was stirred at room temperature for 12 hours under hydrogen atmosphere. The reaction mixture was filtered through celite. The residue obtained by concentration of the filtrate under reduced pressure was purified by column chromatography on silica gel (n-hexane:ethyl acetate=1:1) to give the title compound (0.60 g, 47%) as a colorless liquid.

reactant | cyclohexanol | 10.0 mmol, 1.00 g | C1(CCCCC1)O | C6H12O
reactant | sodium hydride | 6.00 mmol, 0.240 g | [H-].[Na+]
reactant | 1-Fluoro-4-nitro-2-(trifluoromethyl)benzene | 5.00 mmol, 1.05 g | FC1=C(C=C(C=C1)[N+](=O)[O-])C(F)(F)F | C7H3F4NO2
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
product | 4-cyclohexyloxy-3-(trifluoromethyl)aniline | 0.60 g, 47% | C1(CCCCC1)OC1=C(C=C(N)C=C1)C(F)(F)F | C13H16F3NO
